US07982071B2
Addition of acetonitrile to 3-(3-methoxypropoxy)benzaldehyde gave 3-hydroxy-3-(3-(3-methoxypropoxy)phenyl)propanenitrile as a yellow oil. Yield (0.86 g, 52%): 1H NMR (400 MHz, CDCl3) δ 7.26-7.32 (m, 1H), 6.86-6.97 (m, 3H), 5.02-5.03 (m, 1H), 4.06 (t, J=6.2 Hz, 2H), 3.55 (t, J=6.0 Hz, 2H), 3.35 (s, 3H), 2.75 (d, J=6.0 Hz, 2H), 2.03-2.09 (m, 2H).

reactant | 3-(3-methoxypropoxy)benzaldehyde | COCCCOC=1C=C(C=O)C=CC1 | C11H14O3
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-hydroxy-3-(3-(3-methoxypropoxy)phenyl)propanenitrile | OC(CC#N)C1=CC(=CC=C1)OCCCOC | C13H17NO3
